US06423704B1
Treat a solution of 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepan (preparation 9, 0.50 g, 1.58 mmol) and dimethylformamide (10 mL) with sodium hydride (0.083 g, 2.08 mmol, 60% dispersion in oil) at room temperature. After 30 minutes, add 1-bromo-2-(2-methoxyethoxy)ethane (0.34 g, 1.88 mmol, Aldrich Chemical Company) and heat two hours at 70° C. Cool the reaction, add water (10 mL) and extract with dichloromethane (100 mL). Wash the organic phase with water, dry (Na2SO4), filter and concentrate the filtrate to afford 4-{1-[2-(2-methoxy-ethoxy)-ethyl]-1H-benzoimidazol-2-yl}-[1,4]diazepane-1-carboxylic acid tert-butyl ester (0.62 g).

reactant | 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepan | 1.58 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C17H24N4O2
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 2.08 mmol, 0.083 g | [H-].[Na+]
reactant | 1-bromo-2-(2-methoxyethoxy)ethane | 1.88 mmol, 0.34 g | BrCCOCCOC | C5H11BrO2
solvent | water | 10 mL | O | H2O
product | 4-{1-[2-(2-methoxy-ethoxy)-ethyl]-1H-benzoimidazol-2-yl}-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 0.62 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOCCOC)C=CC=C2 | C22H34N4O4
